US05354502
37 g (0.22 mol) of trans-4-butylcyclohexylmethanol and 18 g (0.23 mol) of anhydrous pyridine were given dropwise addition of 32 g (0.27 mol) of SOCl2 in an ice water bath while stirring, and then stirred for 3 hours at 105°-110° C. with a mantle heater. The reactant was cooled to room temperature, poured into a beaker containing concentrated HC1 and ice, the oily layer was taken off, the water layer was extracted with chloroform, combined with the oily layer and washed with 10% HCl and water. The chloroform was extracted, and the remaining oily substance was distilled under reduced pressure (b. p. 80° C./3 mmHg) to obtain 38 g (0.20 mol) of trans-4-butylcyclohexylchloromethane.

reactant | trans-4-butylcyclohexylmethanol | 0.22 mol, 37 g | C(CCC)[C@@H]1CC[C@H](CC1)CO | C11H22O
reactant | pyridine | 0.23 mol, 18 g | N1=CC=CC=C1 | C5H5N
reactant | SOCl2 | 0.27 mol, 32 g | O=S(Cl)Cl | Cl2OS
product | trans-4-butylcyclohexylchloromethane | 0.20 mol, 38 g | C(CCC)[C@@H]1CC[C@H](CC1)CCl | C11H21Cl
